current_source_t_network - fault test
I1 0 a DC 0.005
C_s a b 3.73e-06
R_p b 0 1003.938884
R_L b c 1517.695674
R_leak c 0 9936357.043553
.op
.control
run
print v(a) v(b) v(c)
print @r_p[i] @r_l[i] @r_leak[i]
print @i1[i]
.endc
.end
